US06242443B1
7-Chloro-3-(1,2-dimethylpropyl)amino-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide
To 10 ml of dry tetrahydrofuran stirred under nitrogen was added successively titanium tetrachloride (0.2 ml), anisole (0.5 ml), 1,2-dimethylpropylamine (0.8 ml), and then a slurry of 7-chloro-2,3-dihydro-2-methyl-3-oxo-4H-1,2,4-benzothiadiazine 1,1-dioxide (400 mg) in a mixture of 1,2-dimethylpropylamine (0.4 ml) and 5 ml of dry toluene. The mixture was heated at 120° C. After 1½ h an additional amount of 1,2-dimethylpropylamine (0.4 ml) was added. After 2½ h the reaction mixture was cooled to room temperature. Isopropyl alcohol (1 ml), concentrated ammonium hydroxide (1 ml) and diatomaceous earth (0.5 g) was added and stirring was continued for 15 min. The insoluble material was removed by filtration and the filter cake rinsed with two portions of 25 ml of ethyl acetate. The organic phases were combined and shaken with 25 ml of water, then with 25 ml of saturated aqueous sodium chloride, dried over sodium sulfate and the solvent was removed in vacuo. The residue was dissolved in 50 ml of ethyl acetate and extracted with 2×50 ml of 4 M hydrochloric acid. The aqueous extracts were made alkaline with concentrated ammonium hydroxide and then extracted with 2×50 ml of ethyl acetate. The organic phase was dried over sodium sulfate and the solvent removed in vacuo. The residue was purified on a silica gel column with a 7:3 mixture of n-heptane and ethyl acetate as solvent to give the title compound as white crystals; m.p. 102-105° C.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 7-chloro-2,3-dihydro-2-methyl-3-oxo-4H-1,2,4-benzothiadiazine 1,1-dioxide | 400 mg | ClC1=CC2=C(NC(N(S2(=O)=O)C)=O)C=C1 | C8H7ClN2O3S
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | 1,2-dimethylpropylamine | 0.4 ml | CC(C(C)C)N | C5H13N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 0.2 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | 1,2-dimethylpropylamine | 0.4 ml | CC(C(C)C)N | C5H13N
solvent | 1,2-dimethylpropylamine | 0.8 ml | CC(C(C)C)N | C5H13N
solvent | Isopropyl alcohol | 1 ml | C(C)(C)O | C3H8O
product | 7-Chloro-3-(1,2-dimethylpropyl)amino-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N=C(N(S2(=O)=O)C)NC(C(C)C)C)C=C1 | C13H18ClN3O2S
